US04275065
3-Hydroxy-2-phenylthiazolo-[2,3-b]benzothiazolium bromide
A 1 l. acetone solution of 33.4 g. (0.20 moles) 2-mercaptobenzothiazole and 43 g. (0.20 moles) α-bromophenylacetic acid containing 75 ml. glacial acetic acid and 50 ml. acetic anhydride is heated in an open flask to a volume of 400 ml. The precipitated yellow solid is collected and washed with acetone or ether and dried. The product, weighing 47.7 g. (65% yield) melts at 215° C. (dec.).

reactant | acetone | CC(=O)C | C3H6O
reactant | 2-mercaptobenzothiazole | 0.20 moles | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
reactant | α-bromophenylacetic acid | 0.20 moles, 75 ml | BrC(C(=O)O)C1=CC=CC=C1 | C8H7BrO2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Hydroxy-2-phenylthiazolo-[2,3-b]benzothiazolium bromide | 65% yield | [Br-].OC1=C(SC=2SC3=C([N+]21)C=CC=C3)C3=CC=CC=C3 | InChI=1S/C15H9NOS2.BrH/c17-14-13(10-6-2-1-3-7-10)19-15-16(14)11-8-4-5-9-12(11)18-15;/h1-9H;1H
